US08293911B2
Step B: N-(4-bromo-2-chloro-6-(trifluoromethyl)phenyl)-3,3-dimethylbutanamide
3,3-Dimethylbutanoyl chloride (1.08 g, 8.0 mmol) was added to a solution of 4-bromo-2-chloro-6-(trifluoromethyl)aniline (2.0 g, 7.3 mmol) in acetonitrile (10 mL). The reaction mixture was stirred at room temperature overnight. Water was added, and the mixture was then extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated. Purification by column chromatography in dichloromethane afforded the title compound as a powder (1.22 g, 65% over the two steps).

reactant | 3,3-Dimethylbutanoyl chloride | 8.0 mmol, 1.08 g | CC(CC(=O)Cl)(C)C | C6H11ClO
reactant | 4-bromo-2-chloro-6-(trifluoromethyl)aniline | 7.3 mmol, 2.0 g | BrC1=CC(=C(N)C(=C1)C(F)(F)F)Cl | C7H4BrClF3N
reactant | Water | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-(4-bromo-2-chloro-6-(trifluoromethyl)phenyl)-3,3-dimethylbutanamide | BrC1=CC(=C(C(=C1)C(F)(F)F)NC(CC(C)(C)C)=O)Cl | C13H14BrClF3NO
